US06410577B1
6-Chloro-2-phenyl-8,8a-dihydroindeno[1,2-d]thiazole-3a,8-diol:
0.6 g (2.3 mmol) of 2-bromo-5-chloro-3-hydroxyindan-1-one and 0.473 g (3.45 mmol) of thiobenzamide were dissolved in 5 ml of isopropanol. 0.478 ml (3.45 mmol) of triethylamine was added, and the mixture was then stirred at room temperature for 12 h and subsequently at 50° C. for 8 h. The cooled reaction mixture was concentrated under reduced pressure and the residue was purified by chromatography on silica gel by initially using n-heptane/ethyl acetate 3/1 and then toluene/acetone 5/1. This gave 6-chloro-2-phenyl-8,8a-dihydroindeno[1,2-d]thiazole-3a,8-diol having a melting point of 151-153° C. (with decomposition).

reactant | 2-bromo-5-chloro-3-hydroxyindan-1-one | 2.3 mmol, 0.6 g | BrC1C(C2=CC=C(C=C2C1O)Cl)=O | C9H6BrClO2
reactant | thiobenzamide | 3.45 mmol, 0.473 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | triethylamine | 3.45 mmol, 0.478 ml | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | 6-Chloro-2-phenyl-8,8a-dihydroindeno[1,2-d]thiazole-3a,8-diol | ClC1=CC=2C(C3C(N=C(S3)C3=CC=CC=C3)(C2C=C1)O)O | C16H12ClNO2S
